* AD8565 SPICE Macro-model Typical Values
* Description: Amplifier
* Generic Desc: Single LCD driver amp - 16V rail-rail
* Developed by: RM / ADSJ
* Revision History: 08/10/2012 - Updated to new header style
* 1.0 (06/2007)
* Copyright 2004, 2012 by Analog Devices
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model 
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*    
* Parameters modeled include: 
*
* END Notes
*
* Node Assignments
*		noninverting input
*		|	inverting input
*		|	|	 positive supply
*		|	|	 |	 negative supply
*		|	|	 |	 |	 output
*		|	|	 |	 |	 |
*		|	|	 |	 |	 |
.SUBCKT AD8565	1	2	99	50	45
* 
* INPUT STAGE
*
Q1   4  7 18 PIX
Q2   6  2 17 PIX
Q3  11  7 15 NIX
Q4  12  2 16 NIX
RC1  4 50 2000
RC2  6 50 2000
RC3 99 11 2000
RC4 99 12 2000
C1   4  6 3.3E-12
C2  11 12 3.3E-12
RE1  8 18 1.2E3
RE2  8 17 1.2E3
RE3 15 10 1.2E3
RE4 16 10 1.2E3
I1  99  8 100E-6
I2  10 50 100E-6
V1   9  8 1
V2  13 50 1
D1   9 99 DX
D2  13 10 DX
EOS  7  1 POLY(3) (22,98) (73,98) (81,98) 2E-3 1 1 1
IOS  1  2 5E-9
*
* CMRR 95dB, ZERO AT 20kHz
*
ECM1 21 98 POLY(2) (1,98) (2,98) 0 .5 .5
RCM1 21 22 500E3
CCM1 21 22 15.9E-12
RCM2 22 98 8.9
*
* PSRR=100dB, ZERO AT 100Hz
*
* RPS1 70  0 1E6
* RPS2 71  0 1E6
* CPS1 99 70 1E-5
* CPS2 50 71 1E-5
* EPSY 98 72 POLY(2) (70,0) (0,71) 0 1 1
EPSY 98 72 POLY(2) (99,0) (0,50) 0 1 1
RPS1 72 73 1.59E6
CPS1 72 73 1E-9
RPS2 73 98 50
*
* VOLTAGE NOISE REFERENCE OF 24nV/rt(Hz)
*
VN1 80 98 0
RN1 80 98 16.45E-3
HN  81 98 VN1 24
RN2 81 98 1
*
* INTERNAL VOLTAGE REFERENCE
*
EREF 98  0 POLY(2) (99,0) (50,0) 0 .5 .5
GSY  99 50 (99,50) 12.5E-6 
EVP  97 98 (99,50) 0.5
EVN  51 98 (50,99) 0.5
*
* LHP ZERO AT 7MHz, POLE AT 50MHz
*
E1 32 98 POLY(2) (4,6) (11,12) 0 .5814 .5814
R2 32 33 3.7E3
R3 33 98 22.74E3
C3 32 33 1E-12
*
* GAIN STAGE
*
G1 98 30 POLY(2) (4,6) (11,12) 0 150E-6 150E-6
R1 30 98 542E3
CF 45 30 10E-12
D3 30 97 DX
D4 51 30 DX
*
* OUTPUT STAGE
*
M5  45 46 99 99 POX L=1u W=1610u
M6  45 47 50 50 NOX L=1u W=1610u
EG1 99 46 POLY(1) (98,30) 0.5209 1
EG2 47 50 POLY(1) (30,98) 0.5209 1
*
* MODELS
*
.MODEL POX PMOS (LEVEL=2,KP=10E-6,VTO=-0.328,LAMBDA=0.01,RD=0)
.MODEL NOX NMOS (LEVEL=2,KP=10E-6,VTO=+0.328,LAMBDA=0.01,RD=0)
.MODEL PIX PNP (BF=103,IS=1E-14,VA=100,KF=4.3E-14)
.MODEL NIX NPN (BF=124,IS=1E-14,VA=100,KF=4.3E-14)
.MODEL DX D(IS=1E-14,RS=5)
.ENDS AD8565



